US07968720B2
2-(4-Bromo-phenoxy)-ethanol
4-Bromophenol (100 g, 0.58 mol) was dissolved in in xylenes (220 mL). [1,3]Dioxolan-2-one (53.7 g, 0.61 mol) and imidazole (592 mg, 8.70 mmol) were added. The mixture was heated to 140° C. for 3 days. The mixture was allowed to cool to rt, and the solvents were removed under reduced pressure. Drying the residue under high vacuum yielded the title compound (130 g, quantitative). LC-MS: tR=0.81 min.

reactant | 4-Bromophenol | 0.58 mol, 100 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | [1,3]Dioxolan-2-one | 0.61 mol, 53.7 g | O1C(OCC1)=O | C3H4O3
catalyst | imidazole | 8.70 mmol, 592 mg | N1C=NC=C1 | C3H4N2
product | 2-(4-Bromo-phenoxy)-ethanol | 130 g | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
